US06348474B1
To a solution of 5-(benzenesulfonylcarbamoyl)-3-(4-carboxy-2-chlorobenzyl)-2-methyl-3H-imidazo[4,5-b]pyridine (25 mg, 0.052 mmol) in N,N-dimethylformamide (0.3 ml) were added ethanol (4 mg, 0.088 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (12 mg, 0.062 mmol) and 1-hydroxybenzotriazole (10 mg, 0.075 mmol) at room temperature. Three hours later, ethyl acetate and water were added to the reaction mixture and the mixture was adjusted to pH 4 with 1N hydrochloric acid. The organic layer was washed with water four times, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel thin layer chromatography (eluent: chloroform/methanol=10/1) and crystallized from ethyl acetate to give 5-(benzenesulfonylcarbamoyl)-3-(2-chloro-4-(ethoxycarbonyl)benzyl)-2-methyl-3H-imidazo[4,5-b]pyridine (18 mg) as colorless crystals.

reactant | 5-(benzenesulfonylcarbamoyl)-3-(4-carboxy-2-chlorobenzyl)-2-methyl-3H-imidazo[4,5-b]pyridine | 0.052 mmol, 25 mg | C1(=CC=CC=C1)S(=O)(=O)NC(=O)C1=CC=C2C(=N1)N(C(=N2)C)CC2=C(C=C(C=C2)C(=O)O)Cl | C22H17ClN4O5S
reactant | ethanol | 0.088 mmol, 4 mg | C(C)O | C2H6O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.062 mmol, 12 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 0.075 mmol, 10 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | N,N-dimethylformamide | 0.3 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(benzenesulfonylcarbamoyl)-3-(2-chloro-4-(ethoxycarbonyl)benzyl)-2-methyl-3H-imidazo[4,5-b]pyridine | 18 mg | C1(=CC=CC=C1)S(=O)(=O)NC(=O)C1=CC=C2C(=N1)N(C(=N2)C)CC2=C(C=C(C=C2)C(=O)OCC)Cl | C24H21ClN4O5S
